US06133258
The reaction procedure of Example 85 was followed except that 1.733 g (11 mmol) of 2-chloronicotinic acid, 15 ml of thionyl chloride, two droplets of DMF, 880 mg of ammonium isothiocyanate, 15 ml of acetone, 1.993 g of 3,4-dimethoxy-N-ethylaniline and 10 ml of acetone were used. The product was then recrystallized from ethanol to obtain 3.388 g of 2-[N-(3,4-dimethoxyphenyl)-N-ethylaminoj-4H-pyrido[3,2-e]-1,3-thiazin-4-one.

reactant | 2-chloronicotinic acid | 11 mmol, 1.733 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium isothiocyanate | 880 mg | [N-]=C=S.[NH4+]
reactant | 3,4-dimethoxy-N-ethylaniline | 1.993 g | COC=1C=C(NCC)C=CC1OC | C10H15NO2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[N-(3,4-dimethoxyphenyl)-N-ethylaminoj-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 3.388 g | COC=1C=C(C=CC1OC)N(CC)C=1SC2=C(C(N1)=O)C=CC=N2 | C17H17N3O3S
